US06730754B2
(d) Synthesis of 6-[Dimethylsilyl(tert-butylamino)]ethyl-5,6-dihydro indeno[2,1-b]indole
8.02 mL of n-BuLi 2.5 M in hexane (20.04 mmol) were added dropwise at 0° C. to a solution of 4.30 g of N-ethyl-5,6-dihydroindeno[2,1-b]indole (Mw=233.31, purity 98.9%, 18.22 mmol) in Et2O. At the end of the addition, the reaction mixture was allowed to warm up to room temperature and stirred for two hours. The dark brown solution obtained was added at 0° C. to a solution of 4.32 g of (tert-butylamino)dimethylchlorosilane (Mw=165.74, purity 83.7% wt., d=0.887, 21.86 mmol) in Et2O. The final mixture was allowed to warm up to room temperature and stirred for three hours. Then the solvents were evaporated under reduced pressure to give a residue (8.73 g) which was extracted with 50 mL of toluene. The extract, a sticky brown solid (7.48 g), was washed with pentane obtaining 4.32 g of a light brown powder, which was analyzed by 1H-NMR. The 1H-NMR analysis showed a purity of 96.6% wt. in the desired ligand together with a 3.4% wt. of starting N-ethyl-5,6-dihydroindeno[2,1-b]indole. Yield=63.1%.

reactant | n-BuLi | 2.5 M, 8.02 mL | [Li]CCCC
reactant | hexane | 20.04 mmol | CCCCCC | C6H14
reactant | N-ethyl-5,6-dihydroindeno[2,1-b]indole | 18.22 mmol, 4.30 g | C(C)N1C2=C(C3=CC=CC=C13)C1=CC=CC=C1C2 | C17H15N
reactant | (tert-butylamino)dimethylchlorosilane | 21.86 mmol, 4.32 g | C(C)(C)(C)N[Si](Cl)(C)C | C6H16ClNSi
solvent | Et2O | CCOCC | C4H10O
product | 6-[Dimethylsilyl(tert-butylamino)]ethyl-5,6-dihydro indeno[2,1-b]indole | 8.73 g, Yield=63.1% | C[SiH](C)N(C(C)(C)C)CCC1C2=CC=CC=C2C2=C1NC1=CC=CC=C21 | C23H30N2Si
